US06956050B2
STEP 1. 2-[4-(2-NITROANILINO)PHENYL]ETHANOL
A mixture of 2-chloronitrobenzene (3.9 g, 25 mmol) and 4-aminophenylethyl alcohol (4.1 g, 30 mmol) was placed in a sealed tube and heated at 150° C. for 3 h. The reaction mixture was cooled and purified by flash column chromatography on silica gel eluting with hexane/ethyl acetate (2:1) to afford 3.5 g (55%) of the title compound as orange solids: 1H-NMR (CDCl3)δ2.90 (2H, t, J=6.5 Hz), 3.91 (2H, t, J=6.5 Hz), 6.81-6.70 (1H, m), 7.40-7.16 (6H, m), 8.21 (1H, dd, J=1.5, 8.8 Hz), 9.47 (1H, s).

reactant | 2-chloronitrobenzene | 25 mmol, 3.9 g | ClC1=C(C=CC=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | 4-aminophenylethyl alcohol | 30 mmol, 4.1 g | NC1=CC=C(C=C1)CCO | C8H11NO
product | 2-[4-(2-NITROANILINO)PHENYL]ETHANOL | 3.5 g, 55% | [N+](=O)([O-])C1=C(NC2=CC=C(C=C2)CCO)C=CC=C1 | C14H14N2O3
